US07470679B2
(S)-2-(4-Chloro-8-oxo-9-(pyridin-4-ylmethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid dihydrochloride
(S)-Methyl 2-(4-chloro-8-oxo-9-(pyridin-4-ylmethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetate (21 mg, 0.05 mmol) was dissolved in 1N hydrochloric acid (1.0 mL). Reaction was heated at 50° C. for 5 hours. Another 1 mL of 1N hydrochloric acid was added to the mixture. Reaction was heated at 50° C. for 17 hours. Mixture was concentrated in vacuo. Residue was treated with acetonitrile and then the material was concentrated. Title compound was obtained as dark yellow solid in 83% yield. MS m/e (M+H)+=385.2.

reactant | (S)-Methyl 2-(4-chloro-8-oxo-9-(pyridin-4-ylmethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetate | 0.05 mmol, 21 mg | ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(=O)OC)=O)CC2=CC=NC=C2 | C20H19ClN4O3
solvent | hydrochloric acid | 1N, 1.0 mL | Cl | ClH
solvent | hydrochloric acid | 1N, 1 mL | Cl | ClH
product | (S)-2-(4-Chloro-8-oxo-9-(pyridin-4-ylmethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid dihydrochloride | 83% yield | Cl.Cl.ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(=O)O)=O)CC2=CC=NC=C2 | InChI=1S/C19H17ClN4O3.2ClH/c20-16-6-12-5-13(7-17(25)26)19(27)24(9-11-1-3-21-4-2-11)10-15(12)14-8-22-23-18(14)16;;/h1-4,6,8,13H,5,7,9-10H2,(H,22,23)(H,25,26);2*1H/t13-;;/m0../s1
